US04021207
40 cc of toluene, 31 g of 1,3-butadiene and 27 g of 1,3-pentadiene have been added in a reactor to 0.42 g of nickel trifluoroacetate chloride. After 4 hours of reaction at 60° C., we have isolated 50 g of a butadiene-pentadiene copolymer containing 60% of butadiene units and 40% of pentadiene units. Its microstructure consisted of more than 90% of 1,4 units and its average molecular weight by number was about 4,000 (polymer E).

reactant | 1,3-butadiene | 31 g | C=CC=C | C4H6
reactant | 1,3-pentadiene | 27 g | C=CC=CC | C5H8
catalyst | nickel trifluoroacetate chloride | 0.42 g | [Cl-].FC(C(=O)[O-])(F)F.[Ni+2]
solvent | toluene | 40 cc | C1(=CC=CC=C1)C | C7H8
product | butadiene pentadiene | 50 g | C=CC=C.C=CC=CC | InChI=1S/C5H8.C4H6/c1-3-5-4-2;1-3-4-2/h3-5H,1H2,2H3;3-4H,1-2H2
